US07288537B2
A solution of 4-fluorobenzoyl-azetidine hydrochloride (0.192 g, 0.892 mmol), triethylamine (0.252 ml, 3.24 mmol) and [(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-iodo-propyl]-carbamic acid tert-butyl ester (0.448 g, 0.811 mmol) in dimethylformamide (3 ml) is stirred at ambient temperature for 18 hours, then partitioned between ethylacetate and water. The ethylacetate phase is dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with a 1:99 methanol/dichloromethane) to afford {(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-propyl}carbamic acid tert-butyl ester. [MH]+ 605.2.

reactant | 4-fluorobenzoyl-azetidine hydrochloride | 0.892 mmol, 0.192 g | Cl.FC1=CC=C(C(=O)N2CCC2)C=C1
reactant | triethylamine | 3.24 mmol, 0.252 ml | C(C)N(CC)CC | C6H15N
reactant | [(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-iodo-propyl]-carbamic acid tert-butyl ester | 0.811 mmol, 0.448 g | C(C)(C)(C)OC(N[C@@H](CCI)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H36INO3Si
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | {(S)-1-(tert-butyl-diphenyl-silanyloxymethyl)-3-[3-(4-fluoro-benzoyl)-azetidin-1-yl]-propyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)C(C1=CC=C(C=C1)F)=O)C(O[SiH2]C(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H45FN2O4Si
